US06455548B2
Preparation of 4-(3-hydroxypropyloxymethyl)piperidine
To a solution of 0.5 g (2.3 mmol) of 1-t-butoxycarbonyl-4-hydroxymethylpiperidine and 1.4 g (4.6 mmol) of 1-bromo-3-(triisopropylsilyloxy)propane in 3 mL of DMF was added 0.12 g (4.1 mmol) of NaH (60% dispersion in mineral oil) and the reaction mixture was stirred at rt for 16 h. To the reaction mixture was added 10 mL of H2O and it was extracted with ether. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate=19:1) to give the title compound.

reactant | 1-t-butoxycarbonyl-4-hydroxymethylpiperidine | 2.3 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | 1-bromo-3-(triisopropylsilyloxy)propane | 4.6 mmol, 1.4 g | BrCCCO[Si](C(C)C)(C(C)C)C(C)C | C12H27BrOSi
reactant | NaH | 4.1 mmol, 0.12 g | [H-].[Na+]
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(3-hydroxypropyloxymethyl)piperidine | OCCCOCC1CCNCC1 | C9H19NO2
